US09126998B2
Ethyl 2-chloro-3-cyclopropyl-3-oxopropanoate
3.1 ml of sulphuryl chloride (38.2 mmol, 1.05 equivalents) were initially charged in 21 ml of dichloromethane, and 5.68 g of ethyl 3-cyclopropyl-3-oxopropanoate (36.4 mmol) were added dropwise on a water bath. The reaction mixture was stirred at RT for 2 h. The mixture was then washed with water, 5% strength aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution, dried over magnesium sulphate and concentrated. The crude product (6.8 g) was used without further purification for the next reaction.

reactant | sulphuryl chloride | 38.2 mmol, 3.1 ml, 1.05 equivalents | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | ethyl 3-cyclopropyl-3-oxopropanoate | 36.4 mmol, 5.68 g | C1(CC1)C(CC(=O)OCC)=O | C8H12O3
solvent | dichloromethane | 21 ml | ClCCl | CH2Cl2
product | Ethyl 2-chloro-3-cyclopropyl-3-oxopropanoate | ClC(C(=O)OCC)C(=O)C1CC1 | C8H11ClO3
